US20010023249A1
Step 4: Preparation of Example 34, (S)-{4-[(1-{2-[(Azepane-1-carbonyl)-amino]-4-methyl-pentanoy}-piperidin-4-yl)-(3-methyl-butyl)-amino]-phenyl}-carbamic acid benzyl ester
(4-Benzyloxycarbonylamino-phenyl)-(3-methyl-butyl)-piperidin-4-yl-amine (0.22 g, 5.64 mmol) was dissolved in DMF (30 mL), treated with Hunig's base (3.93 mL, 22.6 mmol), (S)-2-[(Azepane-1-carbonyl)-amino]-4-methyl-pentanoic acid (1.36 g, 5.64 mmol), and HBTU (2.04 g, 5.64 mmol), and stirred for 1 hour. The reaction was diluted with EtOAc (200 mL), washed with saturated bicarbonate solution and brine, dried over Na2SO4, and concentrated. The residue was chromatographed on silica gel eluting with 5-% MeOH/CH2Cl2 to give 2.76 g (77%) of the desired product.

reactant | (4-Benzyloxycarbonylamino-phenyl)-(3-methyl-butyl)-piperidin-4-yl-amine | 5.64 mmol, 0.22 g | C(C1=CC=CC=C1)OC(=O)NC1=CC=C(C=C1)N(C1CCNCC1)CCC(C)C | C24H33N3O2
reactant | Hunig's base | 22.6 mmol, 3.93 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | (S)-2-[(Azepane-1-carbonyl)-amino]-4-methyl-pentanoic acid | 5.64 mmol, 1.36 g | N1(CCCCCC1)C(=O)N[C@H](C(=O)O)CC(C)C | C13H24N2O3
reactant | HBTU | 5.64 mmol, 2.04 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
product | (S)-{4-[(1-{2-[(Azepane-1-carbonyl)-amino]-4-methyl-pentanoy}-piperidin-4-yl)-(3-methyl-butyl)-amino]-phenyl}-carbamic acid benzyl ester | 2.76 g, 77% | C(C1=CC=CC=C1)OC(NC1=CC=C(C=C1)N(CCC(C)C)C1CCN(CC1)C([C@H](CC(C)C)NC(=O)N1CCCCCC1)=O)=O | C37H55N5O4
